US04459152
4-Hydroxy-3-nitrophenylmethylsulfone
25.6 kg of 4-chloro-3-nitrophenylmethylsulfone are stirred slowly into 4 kg of 30% aqueous sodium hydroxide and the mixture is diluted continuously with water to a volume of about 50 liters. The reaction mixture is heated to 90° C. and then a further 29 kg of 30% aqueous sodium hydroxide are added, with stirring, over 3 to 4 hours. The mixture is then heated for 90 minutes to 103° C. After it has cooled to about 60° C., the solution is adjusted with 16% sulfuric acid to a pH value of about 1.5, whereupon the product precipitates. The precipitate is isolated by filtration, washed and recrystallised from ethanol. Yield: 24 kg of colourless crystals with a melting point of 166°-168° C.

reactant | 4-chloro-3-nitrophenylmethylsulfone | 25.6 kg | ClC1=C(C=C(C=C1)CS(=O)(=O)CC1=CC(=C(C=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C14H10Cl2N2O6S
reactant | sodium hydroxide | 4 kg | [OH-].[Na+]
reactant | sodium hydroxide | 29 kg | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-Hydroxy-3-nitrophenylmethylsulfone | OC1=C(C=C(C=C1)CS(=O)(=O)CC1=CC(=C(C=C1)O)[N+](=O)[O-])[N+](=O)[O-] | C14H12N2O8S
